US07728150B2
[3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-carbamic acid benzyl ester
Utilizing 1-ethyl-5-fluoro-indan-1-ol and (1H-indol-7-yl)-carbamic acid benzyl ester, the tide compound is prepared as in example 1. 7.78 g (100%). LC-MS m/z 249.1 (M++1)

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | (1H-indol-7-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1C=CC=C2C=CNC12)=O | C16H14N2O2
product | [3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1C=CC=C2C(=CNC12)C1(CCC2=CC(=CC=C12)F)CC)=O | C27H25FN2O2
